US09169253B2
30.3 Preparation of 3-benzyl-2,3,7,8,9,10-hexahydro-1H-3,8,10a-triaza-cyclohepta[de]-naphthalene
A solution of 1.089 g (4.07 mmol) of 2-(4-benzyl-3,4-dihydro-2H-quinoxalin-1-yl)ethylamine and 20 ml ethanol was treated with 122 mg (4.07 mmol) of formaldehyde and 511 mg (4.48 mmol) of trifluoroacetic acid and stirred over night at room temperature. The solvent was evaporated and dichloromethane was added to the crude mixture. The organic phase was washed with 1 molar sodium hydroxide solution. The organic phase was dried and purified by column chromatography on silica (eluent: starting with dichloromethane and then up to 100% methanol) to yield 448 mg of the title compound.

reactant | 2-(4-benzyl-3,4-dihydro-2H-quinoxalin-1-yl)ethylamine | 4.07 mmol, 1.089 g | C(C1=CC=CC=C1)N1CCN(C2=CC=CC=C12)CCN | C17H21N3
reactant | formaldehyde | 4.07 mmol, 122 mg | C=O | CH2O
reactant | trifluoroacetic acid | 4.48 mmol, 511 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 3-benzyl-2,3,7,8,9,10-hexahydro-1H-3,8,10a-triaza-cyclohepta[de]-naphthalene | 448 mg | C(C1=CC=CC=C1)N1CCN2C=3C(C=CCC3NCC2)=C1 | C18H21N3
